datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:21]=[C:20]2[S][CH]([H])[CH](C)C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C(C)[CH]([H])[O]1 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C([H])[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[H][NH:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[O]C 10=20;20,21=21"
"C[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([O]CC)[NH][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([O]CC)[NH][H] 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[O]C([H])C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"C[NH+:10]([H])[C:20]([NH:21]CC)([O]C8=CC=CC=C8)[NH]CC.[Cl-]>>[Cl-].C[NH:10][H].CC[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]CC 21=20;20,10=10"
"CCCCCCC1C(O[C:20](=[O:10])N1[H])C.[O-:21]CC>>CCCCCCC1C(O[C:20](N1[H])([O-:10])[O:21]CC)C 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)CC.[O-:21]C>>CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)CCCCCC)CC 21=20;20,10=10"
"[H][O+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C([H])[NH][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(C)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H]C1C(O[C:20](=[O:10])N1[H])CCCCCC.[O-:21]CCCCCC>>[H]C1C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)CCCCCC 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C8=CC=CC=C8)[NH]C 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(CC)[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[S]2.CC[O:10][H] 21=20;20,10=10"
"CCN([C:20]([O-:10])(OCC)[O:21]C)CCCCCC>>CCN([C:20](=[O:10])OCC)CCCCCC.[O-:21]C 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(CC)C(C)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(CC)C(C)[O]2.C[S:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])[O][C:20]([O]C)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]C 10=20;20,21=21"
"CC1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)CC)C>>CC1C(C(O[C:20](=[O:10])N1C)CC)C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[OH:10]C(CCC)C(C)/C(C)=C(C)\[C:20](OC)=[OH+:21]>>[OH:21][C:20]1(OC)C(C)=C(C)C(C)C(CCC)[OH+:10]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"C(C(O[C:20](=[O:10])OC)C1=CC=CC=C1)([O-:21])C1=CC=CC=C1>>C1(C([O:21][C:20](O1)([O-:10])OC)C1=CC=CC=C1)C1=CC=CC=C1 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"[O-:21][CH:20]2(C)C(C3=C(C([O:10]2)C)C=CC=C3)[H]>>[O-:10]C(C1=C(C([CH:20](C)=[O:21])[H])C=CC=C1)C 21=20;20,10=10"
"C[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S][H])[S]C.[Cl-]>>[Cl-].C[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S][H])[S]C 21=20;20,10=10"
"[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"[H][S+:10](C([H])C(C)C(C)[S]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C(C)[S][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"[H][O:10][H].C[NH+:21]=[C:20]([O]CC)[O]C.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]C)([O]CC)[O]C 10=20;20,21=21"
"[OH:10]C(C(C1=C(C=CC=C1)[CH:20](OC)=[OH+:21])[H])[H]>>[OH:21][CH:20]2(OC)C3=C(C(C([OH+:10]2)[H])[H])C=CC=C3 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].C[O+:21]=[C:20]([O]C8=CC=CC=C8)[S][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21]C)([O]C8=CC=CC=C8)[S][H] 10=20;20,21=21"
"CC[O+:10]([K])[C:21]([O-:20])(OCC)OC>>[O:20]=[C:21](OCC)OC.CC[O:10][K] 20=21;21,10=10"
"CN([C:20]1(OC(C([O:21]1)C)CCCCCC)[O-:10])CC>>CN([C:20](=[O:10])OC(C([O-:21])C)CCCCCC)CC 10=20;20,21=21"
"[H][S:10]C(CC)C([H])[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O]C(CC)C(C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C(CC)C(C)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[O:10]([K])C(CC)C(O)C([C:20]([H])=[O:21])O>>[O-:21][C:20]1([H])[O+:10]([K])C(CC)C(O)C1O 10=20;20,21=21"
